US05852031
A solution of 3.0 g (9.7 mmol) of (7R,9aS)-7-hydroxymethyl-2-(4-fluoro-2-nitrophenyl)-2,3,4,6,7,8,9,9a-octahydro-1 H-pyrido[1,2-a]pyrazine in 50 mL of methanol and 50 mL of THF was treated with 0.30 g of 10% Pd/C and treated with 30 psi of hydrogen in a Parr apparatus for 1.5 h. The catalyst was removed by filtration and the red solution concentrated to give 2.65 g (98%) of (7R,9aS)-7-hydroxymethyl-2-(2-amino-4-fluorophenyl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine.

reactant | (7R,9aS)-7-hydroxymethyl-2-(4-fluoro-2-nitrophenyl)-2,3,4,6,7,8,9,9a-octahydro-1 H-pyrido[1,2-a]pyrazine | 9.7 mmol, 3.0 g | OC[C@@H]1CC[C@@H]2N(CCN(C2)C2=C(C=C(C=C2)F)[N+](=O)[O-])C1 | C15H20FN3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.30 g | [Pd] | Pd
product | (7R,9aS)-7-hydroxymethyl-2-(2-amino-4-fluorophenyl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 2.65 g, 98% | OC[C@@H]1CC[C@@H]2N(CCN(C2)C2=C(C=C(C=C2)F)N)C1 | C15H22FN3O
